US04124766
8-Bromo-6-phenyl-imidazo[1,5-d]-as-triazine-4(3H)-thione
To a solution of 8-bromo-6-phenyl-imidazo[1,5-d]-as-triazin-4(3H)-one (5 gm.) in pyridine (100 ml.) is added phosphorus pentasulfide (5 gm.). The mixture is heated at 100° C. for 6 hours, cooled, and the product isolated by filtration and then washed with dilute hydrochloric acid.

reactant | 8-bromo-6-phenyl-imidazo[1,5-d]-as-triazin-4(3H)-one | 5 gm | BrC=1N=C(N2C(NN=CC21)=O)C2=CC=CC=C2 | C11H7BrN4O
reactant | phosphorus pentasulfide | 5 gm | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 8-Bromo-6-phenyl-imidazo[1,5-d]-as-triazine-4(3H)-thione | BrC=1N=C(N2C(NN=CC21)=S)C2=CC=CC=C2 | C11H7BrN4S
